US08440693B2
Intermediate 75.4: (4-Chloro-phenyl)-trimethyl-stannane
To a 1M solution of trimethyltin chloride in THF (92 ml, 92 mmol) was slowly added a 1M solution of 4-chlorophenylmagnesium bromide in Et2O (92 ml, 92 mmol) over a 40 min period at −10° C. so that the temperature never exceed 0° C. After the addition, the cooling bath was removed and the resulting suspension was stirred at RT for 1 h. A saturated aqueous solution of NH4Cl (14 ml) was added followed by water until complete dissolution of the precipitate. The mixture was transferred into a separating funnel and extracted with Et2O (3×). The combined organic fractions were dried over Na2SO4, filtered and evaporated to dryness. The resulting crude material was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; isocratic elution with cyclohexane) to yield the title compound (24.47 g, 89 mmol, 97%) as a colorless oil. TLC: RF=0.76 (cyclohexane/AcOEt 95:5); HPLC: AtRet=3.25 min; 1H NMR (400 MHz, CDCl3): 0.31 (s, 9H) 7.32-7.36 (m, 2H) 7.41-7.45 (m, 2H).

reactant | trimethyltin chloride | C[Sn](C)(C)Cl
reactant | THF | 92 mmol, 92 ml | C1CCOC1 | C4H8O
reactant | 4-chlorophenylmagnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
reactant | Et2O | 92 mmol, 92 ml | CCOCC | C4H10O
product | (4-Chloro-phenyl)-trimethyl-stannane | 89 mmol, 24.47 g, 97% | ClC1=CC=C(C=C1)[Sn](C)(C)C | InChI=1S/C6H4Cl.3CH3.Sn/c7-6-4-2-1-3-5-6;;;;/h2-5H;3*1H3;
